US05714479
To a dichloromethane(9 ml) solution of 6-hydroxymethyl-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid methyl ester(1.71 g,4.50 mmol) were added ethyldiisopropylamine(3.9 ml) and 2-trimethylsilylethoxymethyl chloride(2.4 ml) at room temperature. The mixture was stirred at room temperature for 17 h, partitioned between AcOEt and water, The organic layer was washed with a saturated aqueous solution of NaHCO3 and brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by MPLC(E. Merck lobar column Kieselgel 60/hexane:AcOEt=3:1 to 1:1) to give 6-(2-trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-carboxylic acid methyl ester(1.44 g).

reactant | 6-hydroxymethyl-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid methyl ester | 4.50 mmol, 1.71 g | COC(=O)C1=NC(=CC=C1C(=O)C1=CC2=C(C=C1)OCO2)CO | C16H13NO6
reactant | ethyldiisopropylamine | 3.9 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-trimethylsilylethoxymethyl chloride | 2.4 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 6-(2-trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-carboxylic acid methyl ester | 1.44 g | COC(=O)C1=NC(=CC=C1C(=O)C1=CC2=C(C=C1)OCO2)COCOCC[Si](C)(C)C | C22H27NO7Si
